US08183289B2
2-(4-(4-(3,4-Dichlorobenzamido)phenoxy)-3-((4-fluorophenylsulfonamido)methyl)-phenyl)acetic acid
Methyl 2-(4-(4-(3,4-dichlorobenzamido)phenoxy)-3-((4-fluorophenyl-sulfonamido)methyl)phenyl)acetate (40 mg, 0.065 mmol) was diluted with MeOH (1 mL) followed by the addition of NaOH (0.32 mL, 1.3 mmol). After stirring for 1 hour, the reaction mixture was diluted with ethyl acetate and 2N HCl. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated. The material was purified using a 0.5 mm preparative plate eluting with methylene chloride:MeOH:AcOH (90:9:1) to yield 12 mg of the title compound as a solid. 1H NMR (400 MHz, CDCl3/CD3OD) 8.1 (m, 1H), 7.85 (m, 1H), 7.8 (m, 2H), 7.7 (d, 1H), 7.6 (d, 1H), 7.25 (s, 1H), 7.2 (m, 3H), 6.85 (d, 2H), 6.7 (d, 1H), 4.15 (s, 2H), 3.55 (s, 2H).

reactant | Methyl 2-(4-(4-(3,4-dichlorobenzamido)phenoxy)-3-((4-fluorophenyl-sulfonamido)methyl)phenyl)acetate | 0.065 mmol, 40 mg | ClC=1C=C(C(=O)NC2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC)CNS(=O)(=O)C3=CC=C(C=C3)F)C=C2)C=CC1Cl | C29H23Cl2FN2O6S
reactant | NaOH | 1.3 mmol, 0.32 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-(4-(4-(3,4-Dichlorobenzamido)phenoxy)-3-((4-fluorophenylsulfonamido)methyl)-phenyl)acetic acid | 12 mg | ClC=1C=C(C(=O)NC2=CC=C(OC3=C(C=C(C=C3)CC(=O)O)CNS(=O)(=O)C3=CC=C(C=C3)F)C=C2)C=CC1Cl | C28H21Cl2FN2O6S
